US05559111
e) 2(S)-Amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester
With stirring at room temperature, 36 ml of 1N hydrochloric acid am added to a solution of 3.55 g of 2(R)-isopropyl-5(S)-[2(S)-isopropyl-3-(p-tert-butylphenyl)-propyl]-2,5-dihydro-3,6-dimethoxy-pyrazine in 35 ml of acetonitrile and the mixture is then stirred for a further 3 hours. The reaction solution is then poured onto a mixture of 45 ml of saturated NaHCO3 solution and ice and the suspension is extracted with dichloromethane. The extracts arc concentrated by evaporation and purified by FC (700 g of silica gel, eluant: dichloromethane/methanol/NH3 =200:10:1), yielding the title compound: Rf (dichloromethane/methanol/conc. ammonia=200:10:1)=0.70.

reactant | hydrochloric acid | 1N, 36 ml | Cl | ClH
reactant | 2(R)-isopropyl-5(S)-[2(S)-isopropyl-3-(p-tert-butylphenyl)-propyl]-2,5-dihydro-3,6-dimethoxy-pyrazine | 3.55 g | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)OC | C25H40N2O2
reactant | NaHCO3 | 45 ml | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 2(S)-Amino-4(S)-isopropyl-5-(p-tert-butyl-phenyl)-pentanoic acid methyl ester | COC([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)N)=O | C19H31NO2
